US04164415
Preparation of α-Cyano-m-phenoxybenzyl α-isopropyl-2-naphthaleneacetate
A solution of α-isopropyl-2-naphthlyacetyl chloride (219 g, 0.887 mole) in benzene (350 ml) is added to a solution of α-cyano-m-phenoxybenzyl alcohol (179.8 g, 0.798 mole) and pyridine (70.2 g, 0.887 mole) in ether (750 ml) at 0°-10° C. over a 11/2 hour period. Pyridine hydrochloride precipitates out during the addition. The reaction mixture, after stirring overnight at room temperature, is diluted with more ether (500 ml) and poured into water (1200 ml). The organic phase is separated, washed with water, 10% H2SO4 and water and dried over Na2SO4. Evaporation gives an orange-brown gum (348 g, 100% crude yield, 87.5% pure by liquid chromatography).

reactant | α-cyano-m-phenoxybenzyl alcohol | 0.798 mole, 179.8 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | pyridine | 0.887 mole, 70.2 g | N1=CC=CC=C1 | C5H5N
reactant | ether | 750 ml | CCOCC | C4H10O
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | α-Cyano-m-phenoxybenzyl α-isopropyl-2-naphthaleneacetate | C(C)(C)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C1=CC2=CC=CC=C2C=C1 | C29H25NO3
